US09422331B2
A rt suspension of tert-butyl(S)-1-((3S,4S)-5-acetyl-1-(5-bromo-2-methoxybenzyl)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (24 mg, 37.4 μmol), phenylboronic acid (6.83 mg, 56.0 μmol), and sodium bicarbonate (7.84 mg, 93.4 μmol) in 1,4-dioxane (280 μl) was sparged with Ar for 5 min, then [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (3.05 mg, 3.74 μmol) was added. The reaction was sparged with Ar for an additional minute, then sealed and stirred at 80° C. for 2 h, then cooled to rt, diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (18 mg, 75%) as a white solid. MS m/z 662 (MNa)+.

reactant | tert-butyl(S)-1-((3S,4S)-5-acetyl-1-(5-bromo-2-methoxybenzyl)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 37.4 μmol, 24 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC(=C1)Br)OC)C=CC(=C2)C#N | C30H36BrN5O6
reactant | phenylboronic acid | 56.0 μmol, 6.83 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium bicarbonate | 93.4 μmol, 7.84 mg | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 280 μl | O1CCOCC1 | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 18 mg, 75% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC=1C=C(C=CC1OC)C1=CC=CC=C1)C=CC(=C2)C#N | C36H41N5O6
